US08236963B2
Intermediate 1: methyl (2Z)-(5-chloro-2-oxo-1,2-dihydro-3H-indol-3-ylidene)(cyano)acetate (cf. Schemes 1, 2, compound VII)
A stirred mixture of 5-chloro-1H-indole-2,3-dione, starting material VIII, (90.8 g, 0.5 mol) and methyl cyanoacetate (44.1 ml, 0.5 mol) in methanol (1000 ml) was treated with piperidine (2 ml) and heated under reflux for 5 hours before standing overnight at ambient temperature. The crude (5-chloro-2-oxo-1,2-dihydro-indol-3-ylidene)-cyanoacetic acid methyl ester was removed by filtration, washed with cold methanol (2×150 ml) and dried in vacuo to give 117.6 g (90%) of a dark purple solid. This was a 6.5:1 mixture of geometric isomers which was sufficiently pure by 1H NMR for subsequent reaction.

reactant | 5-chloro-1H-indole-2,3-dione | ClC=1C=C2C(C(NC2=CC1)=O)=O | C8H4ClNO2
reactant | methyl cyanoacetate | 0.5 mol, 44.1 ml | C(#N)CC(=O)OC | C4H5NO2
reactant | piperidine | 2 ml | N1CCCCC1 | C5H11N
solvent | methanol | 1000 ml | CO | CH4O
product | methyl (2Z)-(5-chloro-2-oxo-1,2-dihydro-3H-indol-3-ylidene)(cyano)acetate | 117.6 g, 90% | ClC=1C=C2/C(/C(NC2=CC1)=O)=C(/C(=O)OC)\C#N | C12H7ClN2O3
